US07589206B2
c) Ethyl 2-{2-amino-1-[(ethyloxy)carbonyl]ethenyl}-1-{[4-(methyloxy)phenyl]methyl}-1H-pyrrole-3-carboxylate
A mixture of ethyl 2-{1-[(ethyloxy)carbonyl]-2-hydroxyethenyl}-1-{[4-(methyloxy)phenyl]methyl}-1H-pyrrole-3-carboxylate (6.59 g), ammonium acetate (6.47 g) and ethanol (80 ml) was stirred at 60° C. under argon for 4 h, at room temperature over night then heated at 60° C. for a further hour. After cooling the solvent was evaporated and the residue partitioned between ethyl acetate and water, extracting the separated aqueous layer three times with ethyl acetate. The combined organic layers were washed with brine then dried (MgSO4), filtered and evaporated. The residue was stirred in n-hexane for 1 h and then the mixture was allowed to settle. The n-hexane was decanted off and the oil dried to afford the title compound as a brown oil (4.99 g).

reactant | ethyl 2-{1-[(ethyloxy)carbonyl]-2-hydroxyethenyl}-1-{[4-(methyloxy)phenyl]methyl}-1H-pyrrole-3-carboxylate | 6.59 g | C(C)OC(=O)C(=CO)C=1N(C=CC1C(=O)OCC)CC1=CC=C(C=C1)OC | C20H23NO6
reactant | ammonium acetate | 6.47 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | Ethyl 2-{2-amino-1-[(ethyloxy)carbonyl]ethenyl}-1-{[4-(methyloxy)phenyl]methyl}-1H-pyrrole-3-carboxylate | 4.99 g | NC=C(C(=O)OCC)C=1N(C=CC1C(=O)OCC)CC1=CC=C(C=C1)OC | C20H24N2O5
